US09212190B2
A 50-mL round-bottom flask was charged with a solution of 2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl](ethyl)amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetic acid (310 mg, 0.65 mmol, 1.00 equiv), HOBt (132 mg), EDCI (186.9 mg), 4-dimethylaminopyridine (118 mg) and NH4Cl (209 mg, 3.91 mmol, 5.99 equiv) in distilled DMF (6 mL). The solution was stirred for 14 hrs at 25° C. under nitrogen. The resulting solution was diluted with water and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with 3×20 mL of brine, dried over sodium and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (2:1) to afford tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-ethylcarbamate (230 mg, 74%) as a colorless oil. MS (ES): m/z 475 [M+H]+.

reactant | 2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl](ethyl)amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetic acid | 0.65 mmol, 310 mg, 1.00 equiv | C(C)(C)(C)OC(=O)N(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)O)CC | C24H33N3O5S
reactant | HOBt | 132 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 186.9 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH4Cl | 3.91 mmol, 209 mg, 5.99 equiv | [NH4+].[Cl-]
catalyst | 4-dimethylaminopyridine | 118 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-ethylcarbamate | 230 mg, 74% | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)CC | C24H34N4O4S
